US08349851B2
To a solution of methyl 4-carbamoyl-3-(2,2-difluoro-2-(4-fluorophenyl)acetamido)benzoate (1.3 g, 3.5 mmol) in DCE (20 mL) were added triethylamine (20 mL, 142 mmol) and trimethylsilyl chloride (6.7 mL, 53.2 mmol and the mixture was heated 85° C. overnight. The mixture was allowed to cool to rt, and then was concentrated under reduced pressure. The residue was partitioned between EtOAc (150 mL) and H2O (100 mL), and the separated aqueous phase was extracted with EtOAc (3×150 mL). The combined organic layers were washed with brine (100 mL), dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was treated with MeOH with sonication, and the solid was collected by filtration to afford methyl 2-(difluoro(4-fluorophenyl)methyl)-4-hydroxyquinazoline-7-carboxylate (1.1 g, 89%). 1H NMR (300 MHz, DMSO-d6) δ 3.91 (s, 3H), 7.39 (t, 2H), 7.78 (t, 2H), 8.06 (d, 1H), 8.16 (s, 1H), 8.27 (d, 1H), 13.34 (s, 1H); LC-MS (ESI) m/z 349 (M+H)−.

reactant | methyl 4-carbamoyl-3-(2,2-difluoro-2-(4-fluorophenyl)acetamido)benzoate | 3.5 mmol, 1.3 g | C(N)(=O)C1=C(C=C(C(=O)OC)C=C1)NC(C(C1=CC=C(C=C1)F)(F)F)=O | C17H13F3N2O4
reactant | triethylamine | 142 mmol, 20 mL | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl chloride | C[Si](C)(C)Cl | C3H9ClSi
solvent | DCE | 20 mL | ClCCCl | C2H4Cl2
product | methyl 2-(difluoro(4-fluorophenyl)methyl)-4-hydroxyquinazoline-7-carboxylate | 1.1 g, 89% | FC(C1=NC2=CC(=CC=C2C(=N1)O)C(=O)OC)(C1=CC=C(C=C1)F)F | C17H11F3N2O3
